US06194449B1
2-Amino-3-(4-chloro-benzoyl) 4,5,6,7-tetrahydrothieno[2.3-c]pyridine: Compound 10
The procedure of Example 8 was followed except that a corresponding amount of 2-amino-3-(4-chloro-benzoyl)-6-benzyloxycarbonyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine, prepared as in Example 9, was used in place of 2-amino-3-benzoyl-6-benzyloxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine.

reactant | 2-amino-3-(4-chloro-benzoyl)-6-benzyloxycarbonyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | NC1=C(C2=C(CN(CC2)C(=O)OCC2=CC=CC=C2)S1)C(C1=CC=C(C=C1)Cl)=O | C22H19ClN2O3S
reactant | 2-amino-3-benzoyl-6-benzyloxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | NC1=C(C2=C(CN(CC2)C(=O)OCC2=CC=CC=C2)S1)C(C1=CC=CC=C1)=O | C22H20N2O3S
product | 2-Amino-3-(4-chloro-benzoyl) 4,5,6,7-tetrahydrothieno[2.3-c]pyridine | NC1=C(C2=C(CNCC2)S1)C(C1=CC=C(C=C1)Cl)=O | C14H13ClN2OS
